US03972961
Caprolactam/n-Hexylamine Oligomer
A 200-ml. pressure reactor was charged with 50 g. (0.442 mole) of ε-caprolactam (CL), 10 g. (0.099 mole) of n-hexylamine (HA) and 0.2 g. (0.011 mole) of water. The reactor was cooled in a dry ice-acetone bath, evacuatively purged twice with nitrogen, evacuated, and heated at 250°C. for 16 hours with the contents under autogenous pressure. The cooled product was a soft white solid. A 45-g. portion was extracted by centrifugation first with about 900 ml. of 1:1 acetone:water and secondly with acetone. The air-dried residue weighed 25.5 g., and could be readily crushed to a fine powder. Analysis showed 865 equivalents of amino end groups per 106 g., corresponding to a degree of polymerization (DP) of about 9. Differential scanning calorimetry (DSC) showed a major melting endotherm at 196°-198°C.

reactant | ε-caprolactam | 0.442 mole | C1(CCCCCN1)=O | C6H11NO
reactant | n-hexylamine | 0.099 mole | C(CCCCC)N | C6H15N
reactant | water | 0.011 mole | O | H2O
product | Caprolactam n-Hexylamine | C1(CCCCCN1)=O.C(CCCCC)N | InChI=1S/C6H11NO.C6H15N/c8-6-4-2-1-3-5-7-6;1-2-3-4-5-6-7/h1-5H2,(H,7,8);2-7H2,1H3
